US06891066B2
The product of Example 17, Step C, 2,3,4,5,6-pentafluorophenyl 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]phenyl]amino]benzoate (150 mg, 0.29 mmol) was dissolved in THF (2 mL), then added dropwise to a solution of NaBH4 (110 mg, 2.90 mmol) in water (2 mL). This mixture was stirred at room temperature for 2 hours, acidified with 1 M HCl, and diluted with water (50 mL). The resulting aqueous mixture was extracted with EtOAc (2×50 mL), then the combined EtOAc fractions washed with water (50 mL), saturated NaCl (50 mL), and dried (Na2SO4). The solvent was removed under reduced pressure and the resulting residue purified by column chromatography on flash silica (50% EtOAc/hexanes as eluant) to afford 3,4-difluoro-N-(2-hydroxyethoxy)-2-[[4-(hydroxymethyl)phenyl]amino]benzamide as a cream solid (36 mg, 37%); m.p. (EtOAc/hexanes) 73-77° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.73 (br s, 1 H), 8.68 (br s, 1 H), 7.41-7.35 (m, 1 H), 7.15 (d, J=8.5 Hz, 2 H), 7.14-7.06 (m, 1 H), 6.79 (dd, J=8.5, 2.3 Hz, 2 H), 4.99 (t, J=5.7 Hz, 1 H), 4.72 (br s, 1 H), 4.38 (d, J=5.6, 2 H), 3.80 (t, J=4.9 Hz, 2 H), 3.54 (t, J=4.9 Hz, 2 H). Anal. Calcd for C16H16F2N2O4: C, 56.8; H, 4.8; N, 8.3. Found: C, 56.3; H, 4.7; N, 8.1.

reactant | 2,3,4,5,6-pentafluorophenyl 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]phenyl]amino]benzoate | 0.29 mmol, 150 mg | FC1=C(C(=CC=C1F)C(=O)NOCCO)NC1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C22H13F7N2O5
reactant | NaBH4 | 2.90 mmol, 110 mg | [BH4-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 3,4-difluoro-N-(2-hydroxyethoxy)-2-[[4-(hydroxymethyl)phenyl]amino]benzamide | 36 mg, 37% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=CC=C(C=C1)CO | C16H16F2N2O4
